### PR TITLE
More appropriately moving PropExt->ProofIrrel to file PropExtensionalityFact.v

### PR DESCRIPTION
**Pull request by herbelin**
The proof that extensionality of propositions + dependent propositional boolean elimination implies proof-irrelevance was historically in file ClassicalFacts (because at some time, propositional extensionality was thought as "classical mathematics"). But it actually pertains more accuratedly to PropExtensionalityFact.v.

The Logic library is probably worth a cleanup phase, e.g. to uniformize the notations, as well as worth many extensions, but we leave it as future work. But see #18671 on which this PR now depends.

### CODE REVIEW

File: theories/Logic/PropExtensionalityFacts.v [hunk 1]
```diff
@@ -109,3 +120,183 @@ Lemma PropExt_imp_RefutPropExt : PropositionalExtensionality -> RefutableProposi
...
+  PropositionalExtensionality -> forall A:Prop, inhabited A -> has_fixpoint A.
+Proof.
+  intros Ext A a.
+  case (prop_ext_retract_A_A_imp_A Ext A a); intros g1 g2 g1_o_g2.
+  exists (fun f => (fun x:A => f (g1 x x)) (g2 (fun x => f (g1 x x)))).
+  intro f.
+  pattern (g1 (g2 (fun x:A => f (g1 x x)))) at 1.
+  rewrite (g1_o_g2 (fun x:A => f (g1 x x))).
+  reflexivity.
+Qed.
```
Comment (JasonGross) [inline theories/Logic/PropExtensionalityFacts.v:178]: Is it worth factoring out this bit of logic into a general proof of Lawvere's fixpoint theorem?
```coq
#[local] Set Implicit Arguments.
#[local] Set Primitive Projections.
Class IsRetract {A B} (f : A -> B) := {
    retract_inv : B -> A;
    risretr : forall x:B, f (retract_inv x) = x;
  }.
#[global] Arguments retract_inv {A B} f {_}.
#[global] Arguments risretr {A B} f {_} _.
#[export] Hint Mode IsRetract + + - : typeclass_instances.
#[export] Hint Mode IsRetract - - ! : typeclass_instances.
Record Retract A B := { retract_fun : A -> B ; retract_isretract : IsRetract retract_fun }.
#[export] Existing Instance retract_isretract.
(* TODO: use #[export] once #[export] is supported *)
#[global] Coercion retract_fun : Retract >-> Funclass.
#[global] Coercion retract_isretract : Retract >-> IsRetract.
#[global] Coercion Build_Retract : IsRetract >-> Retract.

Class IsFix {A} (Fix : (A -> A) -> A) := isfix : forall f : A -> A, Fix f = f (Fix f).
Class HasFix A := { Fix : (A -> A) -> A ; Fix_eq : IsFix Fix }.
#[export] Existing Instance Fix_eq.
#[export] Existing Instance Build_HasFix.
#[export] Hint Mode HasFix ! : typeclass_instances.
#[export] Hint Mode IsFix ! - : typeclass_instances.
#[export] Hint Mode IsFix - ! : typeclass_instances.
#[global] Coercion Fix : HasFix >-> Funclass.
#[global] Coercion Fix_eq : HasFix >-> IsFix.
#[global] Coercion Build_HasFix : IsFix >-> HasFix.

Section lawvere.
  Context A B (ϕ : A -> (A -> B)) (point_surj : IsRetract ϕ).

  Definition fixpt (f : B -> B) : B
    := let q := fun a => f (ϕ a a) in
       let p := retract_inv ϕ q in
       ϕ p p.

  Definition fixpt_eq : IsFix fixpt
    := fun f => f_equal (fun f => f _) (risretr ϕ _).
End lawvere.
#[export] Existing Instance fixpt_eq.

From Coq Require Import PropExtensionalityFacts ClassicalFacts.
Local Notation PropositionalExtensionality :=
  (forall A B : Prop, (A <-> B) -> A = B).
Lemma prop_ext_retract_A_A_imp_A :
  PropositionalExtensionality -> forall A:Prop, inhabited A -> Retract A (A -> A).
Proof.
  intros Ext A [a].
  rewrite (prop_ext_A_eq_A_imp_A Ext A a).
  exists (fun x:A => x), (fun x:A => x).
  reflexivity.
Qed.
```

File: theories/Logic/PropExtensionalityFacts.v [hunk 2]
```diff
@@ -109,3 +120,183 @@ Lemma PropExt_imp_RefutPropExt : PropositionalExtensionality -> RefutableProposi
...
+    rewrite (bool_elim_redr A a1 a2).
+    change (f true = f false).
+    rewrite (aux Ext Ind).
+    reflexivity.
+  Qed.
+
+End Proof_irrelevance_gen.
+
+(** In the pure Calculus of Constructions, we can define the boolean
+    proposition bool = (C:Prop)C->C->C but we cannot prove that it has at
```
Comment (JasonGross) [inline theories/Logic/PropExtensionalityFacts.v:244]:
```suggestion
    proposition [bool = forall (C:Prop), C->C->C] but we cannot prove that it has at
```

File: theories/Logic/PropExtensionalityFacts.v (hunk 1 above)
Comment (herbelin) [reply theories/Logic/PropExtensionalityFacts.v:178]: Yes, highlighting Lawvere's theorem would be very nice. We could have a file specifically for it actually, even though it is short. Would that be ok?

Comment (herbelin) [reply theories/Logic/PropExtensionalityFacts.v:178]: Regarding the type classes declarations and hints, I'm not expert enough in type classes to understand their roles. They are not used in the proof, so, I guess that these declarations, as well as `HasFix`, are part of a methodology about structures that I'm not familiar to.

Comment (JasonGross) [reply theories/Logic/PropExtensionalityFacts.v:178]: Separate short file sounds fine by me.

The typeclasses / hints are not terribly important, I was starting from [HoTT's `IsEquiv` and `Equiv`](https://github.com/HoTT/Coq-HoTT/blob/a3bde18134c91f5ecb67a0a16041a26d1cd19cc4/theories/Basics/Overture.v#L437-L475) and making use of `Hint Mode` (which wasn't available when those were written), but it's not terribly important.  I do think having the definition of the fixpoint separated out from the proof that it is a fixpoint, is important.  I guess I should have factored even a bit more, though, since the fixpoint computation is not supposed to depend on the proof that `retract_inv ϕ` is a retraction, but only on the function.

Comment (herbelin) [reply theories/Logic/PropExtensionalityFacts.v:178]: > I do think having the definition of the fixpoint separated out from the proof that it is a fixpoint, is important.

Would you like to do it (I'm unsure to be able to use classes the way you'd like to do)?

File: theories/Logic/PropExtensionalityFacts.v (hunk 2 above)
Comment (herbelin) [reply theories/Logic/PropExtensionalityFacts.v:240]: Done.

File: theories/Logic/PropExtensionalityFacts.v (hunk 1 above)
Comment (herbelin) [reply theories/Logic/PropExtensionalityFacts.v]: I made an attempt to isolate the construction and the proof, but not really using the Class mechanism.

Tell me if ok for you. I'm open to suggestions otherwise.

**Comment by SkySkimmer** [comment]
@coq/stdlib-maintainers this has been stalled for a while, please take a decision (eg merge / close / say that something specific needs to be done before merge)

If you merge before the branch you can put back the milestone.

**Comment by herbelin** [comment]
@JasonGross: are you ok with the PR as it is now?

**Comment by herbelin** [comment]
Rerunning CI as it is a long time ago

**Comment by herbelin** [comment]
@coqbot run full ci
